US06750252B2
3−[4-Benzyl-3-({4-[(methylsulfonyl)oxy]phenethyl}oxy)phenyl]-2-ethoxypropanoic acid
Ethyl 3-[4-benzyl-3-({4-[(methylsulfonyl)oxy]phenethyl}oxy)phenyl]-2-ethoxypropanoate (0.48 g), LiOH (0.024 g), THF (10 ml), ethanol (2 ml) and water (2 ml) were added to a reaction flask. The solution was stirred 4 h at room temperature. Aqueous solution, 1 M, of potassium hydrogen sulfate (2 ml) was added to the reaction flask. The solvent was evaporated. The residue was extracted twice by ethyl acetate. The organic phase was dried by magnesium sulfate and filtered. The solvent was evaporated and the product isolated (0.4 g).

reactant | Ethyl 3-[4-benzyl-3-({4-[(methylsulfonyl)oxy]phenethyl}oxy)phenyl]-2-ethoxypropanoate | 0.48 g | C(C1=CC=CC=C1)C1=C(C=C(C=C1)CC(C(=O)OCC)OCC)OCCC1=CC=C(C=C1)OS(=O)(=O)C | C29H34O7S
reactant | LiOH | 0.024 g | [Li+].[OH-]
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | potassium hydrogen sulfate | 2 ml | S(=O)(=O)(O)[O-].[K+]
solvent | water | 2 ml | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3−[4-Benzyl-3-({4-[(methylsulfonyl)oxy]phenethyl}oxy)phenyl]-2-ethoxypropanoic acid | C(C1=CC=CC=C1)C1=C(C=C(C=C1)CC(C(=O)O)OCC)OCCC1=CC=C(C=C1)OS(=O)(=O)C | C27H30O7S
